US05041453
0.8 g of 4-(2-quinolinylmethyloxy)phenol, 0.89 g of ethyl 6-bromomethylbenzoxazole-2-carboxylate and 0.44 g of potassium carbonate are combined in 15 ml of dimethylformamide and heated at 70° C. for 18 hours. The mixture is poured into water and the aqueous mixture extracted with ethyl acetate. The organic solution is dried and evaporated and the resulting crude product is purified by column chromatography on silica gel to give ethyl 6-(4-(quinolin-2-ylmethyloxy)phenoxymethyl)-benzoxazole-2carboxylate.

reactant | 4-(2-quinolinylmethyloxy)phenol | 0.8 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)O | C16H13NO2
reactant | ethyl 6-bromomethylbenzoxazole-2-carboxylate | 0.89 g | BrCC1=CC2=C(N=C(O2)C(=O)OCC)C=C1 | C11H10BrNO3
reactant | potassium carbonate | 0.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | ethyl 6-(4-(quinolin-2-ylmethyloxy)phenoxymethyl)-benzoxazole-2carboxylate | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(OCC2=CC3=C(N=C(O3)C(=O)OCC)C=C2)C=C1 | C27H22N2O5
